US04742069
In accordance with the procedure described in Example 7, a solution of 3.8 g of 4-amino-N-methyl-2-oxo-3-pentenesulfonamide and 4 ml of ethylene bromide in 50 ml of dimethylformamide were treated with 12 g of potassium carbonate and the mixture was stirred intensively at 80° in an oil bath for 6 hours. The product was firstly chromatographed on 300 g of silica gel with methylene chloride/ethyl acetate (1:1) as the elution agent and then recrystallized from ethanol. There were obtained 1.9 g of 5-(3-aminocrotonyl)-2-methylthiazolidine 1,1-dioxide in the form of colorless crystals, m.p. 113°-115°.

reactant | 4-amino-N-methyl-2-oxo-3-pentenesulfonamide | 3.8 g | NC(=CC(CS(=O)(=O)NC)=O)C | C6H12N2O3S
reactant | ethylene bromide | 4 ml | C(CBr)Br | C2H4Br2
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(3-aminocrotonyl)-2-methylthiazolidine 1,1-dioxide | 1.9 g | N\C(=C/C(=O)C1CNC(S1(=O)=O)C)\C | C8H14N2O3S
